US07598391B2
2 (S)-{[2-(3,3-Dicyclohexylureido)-thiazole-4-carbonylamino)propionic acid methyl ester
Prepared in 17% yield (44 mg) as described in general procedure (K) from 2-(3,3-dicyclohexylureido)-thiazole-4-carboxylic acid (210 mg, 0.60 mmol) and (S)-alanine methyl ester (HCl salt, 84 mg, 0.6 mmol).

reactant | 2-(3,3-dicyclohexylureido)-thiazole-4-carboxylic acid | 0.60 mmol, 210 mg | C1(CCCCC1)N(C(NC=1SC=C(N1)C(=O)O)=O)C1CCCCC1 | C17H25N3O3S
reactant | (S)-alanine methyl ester | 0.6 mmol, 84 mg | COC([C@@H](N)C)=O | C4H9NO2
product | [2-(3,3-Dicyclohexylureido)-thiazole-4-carbonylamino)propionic acid methyl ester | 17% yield | COC(C(C)NC(=O)C=1N=C(SC1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C21H32N4O4S
